US07071199B1
d) 1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine
A mixture of 1-cyclopentyl-2-formyl-1H-3-pyrrolecarbonitrile (0.525 g, 2.79 mmol) and hydrazine dihydrochloride (0.35 g, 3.35 mmol) in ethanol (30 mL) was heated at reflux for 2.5 hours then cooled to ambient temperature and purified by preparative reverse phase HPLC to give the title compound as a hydroscopic glass contaminated with ammonium acetate (594 mg) (60% by weight as determined by 1H NMR, yield=337 mg; 1H NMR (DMSO-d6, 400 MHz) δ 8.83 (s, 1H), 7.55 (d, 1H), 6.71 (d, 1H), 6.10 (bs, 2H), 4.94 (m, 1H), 2.15 (m, 2H), 1.89 (m, 4H), 1.70 (m, 2H); 5%–100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 19.46 min.; LC/MS: MH+ 203.0.

reactant | 1-cyclopentyl-2-formyl-1H-3-pyrrolecarbonitrile | 2.79 mmol, 0.525 g | C1(CCCC1)N1C(=C(C=C1)C#N)C=O | C11H12N2O
reactant | hydrazine dihydrochloride | 3.35 mmol, 0.35 g | Cl.Cl.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine | C1(CCCC1)N1C=CC=2C1=CN=NC2N | C11H14N4
